2101-09-17 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt went for IR guided para; however, there was minimal ascites, so no
   para was performed.
 EGD done & showed erosions in the antrum; granularity and mosaic
   appearance in the whole stomach compatible with portal hypertensive
   gastropathy; Varices at the fundus
   - Went for noncontrast abd CT which showed ileus & enlarged liver.
Pt w/ rising CE.  No CP.  Became tachycardic to 160s on dopa.  Dopa
   weaned from 7 to 3 w/ improvement in HR.
   - ICD turned off by EP after discussion w/ pt about goals of care &
   code status--DNR/DNI.
   - Given Kayexylate, Insulin & glucose, calcium for K 6.4 last PM
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2101-9-17**] 04:00 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-9-16**] 10:00 PM
   Insulin - Regular - [**2101-9-16**] 11:38 PM
   Dextrose 50% - [**2101-9-16**] 11:39 PM
   Hydromorphone (Dilaudid) - [**2101-9-17**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-17**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 100 (97 - 166) bpm
   BP: 86/55(62) {70/50(54) - 98/75(90)} mmHg
   RR: 9 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  2,573 mL
                                                                  1,332 mL
   PO:
           240 mL
   TF:
   IVF:
                                                                  1,373 mL
                                                                    717 mL
   Blood products:
                                                                  1,150 mL
                                                                    375 mL
   Total out:
                                                                    215 mL
                                                                      5 mL
   Urine:
                                                                    215 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,358 mL
                                                                  1,327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///14/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   10.2 g/dL
   82 mg/dL
   4.6 mg/dL
   14 mEq/L
   6.1 mEq/L
   90 mg/dL
   98 mEq/L
   129 mEq/L
   30.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2101-9-16**]  07:23 AM
                             [**2101-9-16**]  11:34 AM
                             [**2101-9-16**]  08:21 PM
                             [**2101-9-17**]  04:26 AM
   WBC
   13.0
   13.4
   11.5
   15.7
   Hct
   31.6
   33.2
   29.6
   30.7
   Plt
   [**Telephone/Fax (3) 4885**]55
   Cr
   3.7
   3.7
   4.2
   4.6
   TropT
   0.17
   0.21
   Glucose
   86
   88
   70
   82
   Other labs: PT / PTT / INR:16.6//1.5, CK / CKMB /
   Troponin-T:4390/40/0.21, ALT / AST:258/575, Alk Phos / T Bili:232/5.9,
   Differential-Neuts:78.0 %, Band:4.0 %, Lymph:6.0 %, Mono:12.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:1184 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   62 yo male Hep C cirrhosis and HCC presents with probable lower GIB and
   renal failure of unclear duration.
   # Abd pain:
   #GI bleeding: Pt's description of bleeding very suggestive of lower GI
   process, however upper GIB also possible. GI team is aware and planning
   possible endoscopy today. Pt NPO for now. Transfuse to keep HCT stable.
   Q6 hour HCT checks for now. IV PPI [**Hospital1 **]. Consider octreotide gtt.
   #Renal failure: Pt's prior renal baseline unclear; will need to clarify
   today. Suspect that renal failure is responsible for elevated K and
   likely some component of hyponatremia. Hepatorenal syndrome is high on
   differential in setting of hepatic impairment.
   -check urine lytes
   -pt to by hydrated first with blood and subsequently with crystalloid
   PRN
   -may require albumen infusion
   -kayexalate for elevated potassium; trend frequently
   #Hypotension: Pt denies associated sxs. Suspect that baseline BP runs
   low given liver disease. GI bleeding and abd compartment syndrome may
   also be contributing. Ddx also includes sepsis or SBP.
   -transfuse two units pRBCs
   -check bladder pressure
   -continue dopamine for now but aim to wean; if unable, will need
   central line for alternative pressor
   -diagnostic and therapeutic abd tap
   #Metabloic acidosis: Pt with low serum HCO3 on labs. Etiologies could
   include sepsis, lactic acidosis or ARF.
   -check VBG
   -trend
   #Hyponatremia: Likely related to pt's renal disease as well as possible
   relatively hypovolemia. Prior baseline unclear, although would tolerate
   a lower serum Na in this pt. Will consider NS volume repletion and
   trend.
   #COPD: Appears stable. Continue home Spiriva and Advair.
   #HTN: Hold home antihypertensives in setting of acutely low blood
   pressure.
   #CAD: Hold home BB and Plavix in setting of possible acute GIB.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-9-16**] 06:56 AM
   20 Gauge - [**2101-9-16**] 06:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2101-09-18 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Discussed irreversibility of condition and goals of care with patient
   and family.  All understand that his condition is terminal.  Initially
   pt insistent on getting home to [**Location (un) 4917**] but decision was made to
   hold off as it did not look like he would survive the ambulance ride
   home.  Remained on low dose dopa overnight without escalation. Was
   started on morphine gtt for comfort after failing dilaudid and morphine
   boluses.  Much better pain control.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2101-9-17**] 04:00 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-9-17**] 09:00 AM
   Morphine Sulfate - [**2101-9-17**] 12:00 PM
   Pantoprazole (Protonix) - [**2101-9-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-18**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.3
C (95.6
   HR: 88 (88 - 129) bpm
   BP: 63/45(49) {63/41(49) - 94/65(87)} mmHg
   RR: 10 (4 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,779 mL
                                                                    224 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,164 mL
                                                                    224 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    436 mL
                                                                      0 mL
   Urine:
                                                                     36 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,343 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   10.2 g/dL
   82 mg/dL
   4.6 mg/dL
   14 mEq/L
   6.1 mEq/L
   90 mg/dL
   98 mEq/L
   129 mEq/L
   30.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2101-9-16**]  07:23 AM
                             [**2101-9-16**]  11:34 AM
                             [**2101-9-16**]  08:21 PM
                             [**2101-9-17**]  04:26 AM
   WBC
   13.0
   13.4
   11.5
   15.7
   Hct
   31.6
   33.2
   29.6
   30.7
   Plt
   [**Telephone/Fax (3) 4885**]55
   Cr
   3.7
   3.7
   4.2
   4.6
   TropT
   0.17
   0.21
   0.22
   Glucose
   86
   88
   70
   82
   Other labs: PT / PTT / INR:16.6//1.5, CK / CKMB /
   Troponin-T:4547/38/0.22, ALT / AST:258/575, Alk Phos / T Bili:232/5.9,
   Differential-Neuts:78.0 %, Band:4.0 %, Lymph:6.0 %, Mono:12.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:1184 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   62 yo male Hep C cirrhosis and HCC presents with probable GIB,
   abdominal pain in setting of increasing abd distension, and renal
   failure.  Pt moving toward comfort measures
   # Abd pain: US & CT suggest that primary cause of pain is significantly
   enlarged liver (full w/ CA) extending through much abdomen.  There is
   no significant ascites, nor bowel obstruction, though there are
   distended loops of bowel suggesting possible ileus vs. compression of
   bowel by enlarged liver.
   - tx pain aggressively
   #GI bleed: Unclear source.  No active bleeding on EGD.  Pt passing
   maroon stool throughout night. Transfused one unit ON.
   - consider rechecking hct
   #Renal failure: Pt's prior renal baseline nml (0.8); Suspect prerenal
   etiology.
   -pt to by hydrated first with blood and subsequently with crystalloid
   PRN
   -may require albumen infusion
   -Tx for elevated K if sx
   #Hypotension: Pt denies associated sxs. Baseline BP runs low 90s per
   pt. GI bleeding and abd compartment syndrome may also be contributing.
   Ddx also includes sepsis or SBP, though low suspicion of these at
   present.
   -continue dopamine for now but aim to wean
   #Metabloic acidosis: Mixed AG/non-AG.  Suspect [**2-19**] ARF.
   - tx underlying cause
   #Hyponatremia: stable
   #COPD: Appears stable. Continue home Spiriva and Advair.
   #HTN: Hold home antihypertensives in setting of acutely low blood
   pressure.
   #CAD: Hold home BB and Plavix in setting GIB.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-9-16**] 06:56 AM
   20 Gauge - [**2101-9-16**] 06:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: